US07740906B2
Preparation of the Wood Treatment Solution from DCOIT/DOWANOL PPH:
3000 g of treatment solution was prepared by diluting 90 g (50% solids) of polymer with 2000 g of tap water containing 3 drops of Tego Foamex 805 defoamer with stirring for 20 minutes. (Tap water optionally containing additional surfactant, such as a metal salt of dodecylbenzene sulfonic acid or an alkyl ethoxylate) (0.06%) To the well stirred solution was slowly added 22.5 g (20% DCOIT dissolved in propylene glycol phenyl ether with 0.04% PG, for a final concentration of 1500 ppm DCOIT). Tap water was added to make 3000 g of total solution and the solution was stirred for 60 minutes, and used as is to treat wood.

reactant | water | O | H2O
reactant | dodecylbenzene sulfonic acid | C(CCCCCCCCCCC)C1=C(C=CC=C1)S(=O)(=O)O | C18H30O3S
reactant | DCOIT | CCCCCCCCN1C(=O)C(=C(S1)Cl)Cl | C11H17Cl2NOS
catalyst | water | 3 drops | O | H2O
solvent | propylene glycol phenyl ether | C1(=CC=CC=C1)OCC(C)O | C9H12O2
product | DCOIT DOWANOL | CCCCCCCCN1C(=O)C(=C(S1)Cl)Cl.CCCCOCCO | InChI=1S/C11H17Cl2NOS.C6H14O2/c1-2-3-4-5-6-7-8-14-11(15)9(12)10(13)16-14;1-2-3-5-8-6-4-7/h2-8H2,1H3;7H,2-6H2,1H3
